US07378418B2
To a stirred solution of 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, (500 mg, 1.4 mmol), prepared as described in Example 1, in 7 mL of DMF was added 2,3-epoxypropylbenzene (0.18 mL, 1.4 mmol) and 0.39 g of K2CO3. The resulting red solution was heated to 85° C. for 27 h and, upon cooling to room temp, the mixture was diluted with 200 mL of ethyl acetate and 200 mL of 1N HCL. The layers were extracted, and the organic layer was washed with 200 mL of saturated aqueous NaCl. The organic layer was dried over MgSO4, filtered and evaporated to a yellow oil. The material was purified by silica gel column chromatography using a gradient of 0-100% ethyl acetate/hexanes to give 484 mg of racemic 7,8-bis(4-chlorophenyl)-2-(2-hydroxy-3-phenylpropyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one as a yellow solid containing 15% starting material 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one. Separation of enantiomers was performed on 200 mg of material using Chiracel OD 5 cm×50 cm 20 micron column, flow rate 50 mL/min isocratic 65% heptane/17.5% ethanol/17.5% methanol, monochrome detection at 220 nm. Fraction A was collected at 49 min post injection to give 47 mg of 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one enantiomer A as a yellow solid; Fraction B was collected at 55 min post injection to give 45 mg of 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one enantiomer B as a yellow solid.

reactant | 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 1.4 mmol, 500 mg | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(NN2)=O)C2=CC=C(C=C2)Cl | C17H10Cl2N4O
reactant | 2,3-epoxypropylbenzene | 1.4 mmol, 0.18 mL | O1C(CC2=CC=CC=C2)C1 | C9H10O
reactant | K2CO3 | 0.39 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | racemic 7,8-bis(4-chlorophenyl)-2-(2-hydroxy-3-phenylpropyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 484 mg | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(N(N2)CC(CC2=CC=CC=C2)O)=O)C2=CC=C(C=C2)Cl | C26H20Cl2N4O2
